Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3][C@@:4]1([C:5]#[N:6])[H:7]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],32.08700917459211
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])=[C:4]=[C:5]([N+:7]#[C-:6])[H:12])([H:8])([H:9])[H:10],61.0191045322916
[C:1](=[C:2]([O:3][H:11])[C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:7])[H:9].[H:8][H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],76.29285961964028
[O:1]=[C:2](/[C:3](=[N:5]/[C:4]([H:8])([H:9])[H:10])[H:7])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],74.72534036013707
[C:1]([C:7](/[C:6](=[C:5](\[C:4]([C:2][O:3][H:11])([H:12])[H:13])[H:14])[H:15])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],62.89805998571089
[C:1]([N:7]=[C:6]=[C:3]([N:2]([N+:5]#[C-:4])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],83.98002514605061
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12]>>[N:1]1([H:7])[C@@:2](/[C:6](=[N:5]\[H:11])[H:12])([H:8])[C@@:3]1([C:4][H:10])[H:9],48.64568851481461
[C:1]([C:2]([O:3]/[C:4](=[C:5](\[O:6][H:16])[H:14])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],61.2887472614219
[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],77.6556245743418
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]=[C:3]=[C:5]([O:6][N:4]([H:11])[H:12])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],110.48604997555901
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C+:3](=[C:4]=[N-:5])[H:9].[C:1]([O:2][H:10])([H:6])([H:7])[H:8],68.87581680810091
[C:1]([C:2](/[C:3](=[N:4]\[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:14]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],25.466430630901
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]=[C:2]([C@@:6]1([H:11])[N+:4]([C-:3]([H:7])[H:8])=[C:5]1[H:10])[H:9],70.8749038943341
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[H:12][H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],72.87222089595183
[H:6][H:10].[O-:1][C:2]([C@@:3]1([H:9])[C+:4]([H:11])[N:5]1[H:12])([H:7])[H:8]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],5.667386720757889
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:5]1([H:14])[C:4]([H:12])([H:13])[C+:2]([O:3][H:11])[C:7]([H:16])([H:17])[C-:6]1[H:15])([H:8])([H:9])[H:10],90.138958444538
[C-:4]1=[O+:6][C:5]1([H:12])[H:13].[O:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],42.82879328768772
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:15])([H:10])[H:11])([H:8])[H:9])([C:5][H:14])([H:6])[H:7]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15],2.25286005097567
[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:7])([H:8])[H:9].[C:2]([O:3][H:11])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],56.15658671576868
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[C:4]([H:11])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:12],53.28588608424021
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[N:3]1[H:13].[C:4](=[O:5])([O:6][C:7]([H:14])([H:15])[H:16])[H:9],108.252232351066
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[C:4]=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10].[O:6]([C:7]([H:14])([H:15])[H:16])[H:12],65.02180003656821
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]2([H:11])[C:3]([H:12])([H:13])[C@:4]2([H:14])[C:5]([H:15])([H:16])[C:6]1=[O:7].[H:9][H:17],80.1970515992272
